US08975406B2
1-(4-Bromophenyl)ethanol (3.17 g, 15.8 mmol) was stirred in concentrated HCl (25 mL) and DCM (20 mL) at room temperature for 3 d. Water and DCM were added and the aqueous phase extracted with DCM. The combined organics were dried using a phase separator and concentrated in vacuo to give 1-Bromo-4-(1-chloroethyl)benzene (3.49 g) as a colourless oil which was used in the next step without further purification.

reactant | 1-(4-Bromophenyl)ethanol | 15.8 mmol, 3.17 g | BrC1=CC=C(C=C1)C(C)O | C8H9BrO
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
reactant | Water | O | H2O
solvent | HCl | 25 mL | Cl | ClH
product | 1-Bromo-4-(1-chloroethyl)benzene | 3.49 g | BrC1=CC=C(C=C1)C(C)Cl | C8H8BrCl
